2167-08-27 06:03:00 Physician Resident Progress Note
Chief Complaint: 85 year old male with Hodgkin's lymphoma currently
   undergoing chemotherapy with gemzar/navelbine, trasnferred to [**Hospital Unit Name **] for
   work-up of fever and tachycardia
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2167-8-26**] 08:06 PM
 EKG - At [**2167-8-26**] 11:09 PM
   Patient without complaints except that hungry for breakfast. Denies
   chest pain, subjective palpitations, shortness of breath, or abdominal
   pain. Denies subjective fevers or chills, nausea, vomiting, diarrhea.
   Yesterday,  thinks that patient is in SVT specifically atrial tachy
   - started on esmolol drip for atrial tachycardia, had to increase to
   titrate up however did not break rhythm and blood pressure was low
   - troponin 0.07 => 0.10, CK and CK-MB are flat and no chest pain
   - tsh 5.1 (little bit elevated), no previous tsh on record
   - need to order free t3 and t4
   - also ordered EKG for AM for computer eval
   - blood cultures and urine culture pending
   - spiked fever overnight to 101, drew culture from lines, ordered
   tyleno, restarted vanc (to get in AM)
   - off drip 1 am, now heart rate better
   - went into NSVT for 20+ beats at 5:30am, patient was asymptomatic with
   normal blood pressure
   - wrote for amio load and then amio drip
   Allergies:
   Bleomycins
   Anaphylaxis;
   Strawberry
   facial swelling
   Pineapple
   Unknown; from a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2167-8-26**] 04:30 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2167-8-27**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 35.7
C (96.2
   HR: 78 (78 - 151) bpm
   BP: 102/48(59) {85/25(46) - 122/78(81)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 72.1 kg
   Height: 67 Inch
             Total In:
                                                                  6,805 mL
                                                                    739 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  3,205 mL
                                                                    739 mL
   Blood products:
   Total out:
                                                                  3,305 mL
                                                                    780 mL
   Urine:
                                                                  2,305 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,500 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, regular, no
   murmurs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: warm and well perfused
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, time, place, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   245 K/uL
   7.6 g/dL
   116 mg/dL
   1.3 mg/dL
   20 mEq/L
   3.8 mEq/L
   17 mg/dL
   108 mEq/L
   135 mEq/L
   23.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-8-26**]  10:57 AM
                             [**2167-8-26**]  05:55 PM
                             [**2167-8-27**]  04:06 AM
   WBC
   12.8
   12.0
   10.7
   Hct
   25.9
   25.3
   23.2
   Plt
   265
   272
   245
   Cr
   1.3
   1.3
   TropT
   0.10
   0.11
   Glucose
   141
   116
   Other labs: PT / PTT / INR:26.5/37.1/2.6, CK / CKMB /
   Troponin-T:63/5/0.11, ALT / AST:16/18, Alk Phos / T Bili:120/0.7,
   Differential-Neuts:68.0 %, Band:13.0 %, Lymph:11.0 %, Mono:5.0 %,
   Eos:0.0 %, Albumin:3.0 g/dL, LDH:323 IU/L, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   85M with Hodgkin's Lymphoma currently undergoing chemotherapy with
   Gemzar/[**Hospital 5413**] transferred to [**Hospital Unit Name 44**] for work-up of fever and
   tachycardia.
   .
   Fevers/SIRS- In the setting of tachycardia, elevated WBC - meets
   criteria for SIRS.  UA clean. Chest x-ray and CT chest without evidence
   of pneumonia or intraabdominal abscess. After 4 liters of NS, systolic
   BPs in 80s, asymptomatic.  Per OMR, baseline BPs 120-140s on a
   BBlocker.  Baseline HR 70s-80s on BBlocker.  Patient last recieved
   Neulasta on [**8-13**].  Differential includes SIRS/Sepsis v. tamponade v a
   conglomeration of lymphoma and treatment related symptoms.
   Mild-moderate pericardial effusion noted in ED.  EKG somewhat low
   voltage, no electrical alternans, cards consulted.  No JVD or pulsus
   paradoxus on exam but distant heart sounds.  Pt does have small
   pericardial effusion noted on prior Cts.  On coumadin with INR of 2.7.
   Effusion could be hemorrhagic v malignant v other.  Oncologist, Dr.
   [**Last Name (STitle) 5411**], felt that elevation of WBC count could be attributable to
   Neulasta and that fevers are not uncommon in patient's with lymphoma.
   Etiology of tachycardia uncertain, however, as per cardiology rhythm is
   atrial tachycardia with rapid onset and rapid offest.  Elevation of
   lactate likely due to fall and being down for an unknown period of
   time.  Dr. [**Last Name (STitle) 5411**] also noted that patients who have been on chemo for
   extended periods can develop neuropathies and cardiac conduction
   abnormalities.
   - repeat CBC and diff
   - patient has not required aggressive fluid resuscitation since arrival
   - f/u blood and urine cultures -pending
   - patient received vanc and levo in ED, originally were going to hold
   off on additional antiobiotics however patietn spiked fever again
   - recultured where portacath site is, and restarted vancomycin, will
   continue pending negative blood/line culture results and potential
   source of infection in this patient
   - CTA negative for acute PE, no PNA noted either, CT abdomen negative
   for intrabdominal process
   - suspect that fever may be related to lymphoma, however until cx
   negative will treat with iv vanc
   Tachycardia
 appears to be atrial tachycardia
   - appreciate cards consult yesterday, reccomended beta blocker to treat
   a-tach
   - tried esmolol drip limited by low blood pressure, did not appear to
   break rythmn
   - d/c esmolol drip and patient returned to [**Location 848**] sinus rhythm
   overnight
   - subsequently patient developed run of 22 NSVT with stable blood
   pressure, asymptomatic
 checked electrolytes which were okay (gave
   repletion to optimize) and started on amiodarone load
   - will follow up with cardiology as think that much of presentation
   consistent with cardiac etiology
   - would consider transfer to [**Hospital1 **] if pressures improve
   - definitely has a CAD equivalent with PVD
   - as below the pericardial effusion appears circumferential without
   signs of tamponade, so would restart coumadin
   - ECHO: The left atrium is normal in size. Left ventricular wall
   thicknesses are normal. The left ventricular cavity size is normal.
   Overall left ventricular systolic function is low normal (LVEF 50%).
   Right ventricular chamber size is normal. with focal hypokinesis of the
   apical free wall. The ascending aorta is mildly dilated. The aortic
   valve leaflets (3) are mildly thickened but aortic stenosis is not
   present. No aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. There is no mitral valve prolapse. Trivial mitral
   regurgitation is seen. The pulmonary artery systolic pressure could not
   be determined. There is a small pericardial effusion. The effusion
   appears circumferential. There are no echocardiographic signs of
   tamponade. No right atrial or right ventricular diastolic collapse is
   seen.
   Compared with the findings of the prior report (images unavailable for
   review) of [**2166-7-28**], the right ventricle is no longer dilated and
   globally hypocontractile.
   Lymphoma - missed cycle of gemzar/navelbine [**8-26**].  primary oncologist,
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5411**], [**First Name3 (LF) 178**] dose chemo next week
   - last dose chemo [**2167-8-12**], last dose neulasta [**8-13**]
   - continue megace for now
   .
   Hypertension -  Baseline 140s
   - hold BBlocker, hold doxazosin
   - currently still hypotensive
   .
   History of PE - no acute PE on CT but remnant of past noted
   - hold coumadin for evaluation of pericardial effusion
   .
   Hyperlipidemia - Continue statin
   PVD
   -         history of peripheral vascular disease  had fem/posterial
   tibial bypass (also stent)
   -         essentially a CAD equivalent
   -         on statin
   .
   Renal Insufficiency - baseline creatnine 1.2, 1.4 on arrival.  Did
   receive contrast in ED for PE CT.
   - continue IVFs
   - avoid nephrotoxic meds
   .
   BPH - hold doxazosin for now while hypotensive
   .
   Fall - per onc attending, patient has unsteadiness of gait at baseline
   and is supposed to walk with walker but does not.
   - PT consult and eval
   .
   FEN - regular diet, replete lytes prn by onc sliding scales
   .
   Access - Right-sided portacath, peripheral IVs
   .
   Code Status - Full code
   .
   Contact - HCP, wife.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-8-26**] 05:00 AM
   18 Gauge - [**2167-8-26**] 05:00 AM
   Indwelling Port (PortaCath) - [**2167-8-26**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-08-27 10:36:00 Physician Attending Progress Note
Chief Complaint: tachycardia , HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo man with hodgkins lymphoma.  Tripped and fell, no reported .  At
   OSH, not trauma at OSH (negative head CT).  Was tachycardic,
   transferred here.  Cardiology didn't feel that he had ACS, but with
   atrial tachycardia.  Started on esmolol, but was not effective.  Was
   weaned off esmolol, and flipped into sinus sinus for 5 hours.   Had 22
   beat run of NSVT.  Started on amio drip.  Also was febrile to 101
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2167-8-26**] 08:06 PM
 EKG - At [**2167-8-26**] 11:09 PM
 BLOOD CULTURED - At [**2167-8-27**] 04:00 AM
   Allergies:
   Bleomycins
   Anaphylaxis;
   Strawberry
   facial swelling
   Pineapple
   Unknown; from a
   Last dose of Antibiotics:
   Vancomycin - [**2167-8-27**] 08:00 AM
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Metoprolol - [**2167-8-26**] 04:30 PM
   Other medications:
   simvastat
   asa
   allopurinol
   vanco
   amiodarone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): No(t) Rash
   Flowsheet Data as of  [**2167-8-27**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.2
   HR: 128 (77 - 144) bpm
   BP: 90/59(66) {85/25(46) - 122/78(81)} mmHg
   RR: 20 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: PAT (Paroxysmal Atrial Tachycardia)
   Wgt (current): 72.2 kg (admission): 72.1 kg
   Height: 67 Inch
             Total In:
                                                                  6,805 mL
                                                                  1,331 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,205 mL
                                                                  1,211 mL
   Blood products:
   Total out:
                                                                  3,305 mL
                                                                  1,400 mL
   Urine:
                                                                  2,305 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,500 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3 , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.6 g/dL
   245 K/uL
   116 mg/dL
   1.3 mg/dL
   20 mEq/L
   3.8 mEq/L
   17 mg/dL
   108 mEq/L
   135 mEq/L
   23.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-8-26**]  10:57 AM
                             [**2167-8-26**]  05:55 PM
                             [**2167-8-27**]  04:06 AM
   WBC
   12.8
   12.0
   10.7
   Hct
   25.9
   25.3
   23.2
   Plt
   265
   272
   245
   Cr
   1.3
   1.3
   TropT
   0.10
   0.11
   Glucose
   141
   116
   Other labs: PT / PTT / INR:26.5/37.1/2.6, CK / CKMB /
   Troponin-T:63/5/0.11, ALT / AST:16/18, Alk Phos / T Bili:120/0.7,
   Differential-Neuts:68.0 %, Band:13.0 %, Lymph:11.0 %, Mono:5.0 %,
   Eos:0.0 %, Albumin:3.0 g/dL, LDH:323 IU/L, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:3.4 mg/dL
   Imaging: echo:  no tamponade.  Low normal EF 50%
   CT chest:  No PE
   CT abdomen: no abd process.
   Assessment and Plan
   Fevers:  No clear source.  Await cultures.  Empiric vancomycin to cover
   line source pending cultures.
   HOTN:  Unclear cause.  Has had decreased PO intake over past few days,
   so could be dehydration.
   PAF:  In and out of AF, now in sinus.  On amiodarone drip currently.
   Coumadin for AF and prior PE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-8-26**] 05:00 AM
   18 Gauge - [**2167-8-26**] 05:00 AM
   Indwelling Port (PortaCath) - [**2167-8-26**] 08:06 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2167-08-28 07:28:00 Physician Resident Progress Note
Chief Complaint: S/p fall and LOC
   24 Hour Events:
 BLOOD CULTURED - At [**2167-8-28**] 04:31 AM
   - Coumadin was restarted
   - Amiodarone load was finished
   -1U PRBC at 5pm for low hct
   -urine cx negative
   -PT eval c/w significant peripheral neuropathy will need to use walker
   at home. Also renally dosed neurontin today.
   - has several runs of NSVT, asymptomatic
   Allergies:
   Bleomycins
   Anaphylaxis;
   Strawberry
   facial swelling
   Pineapple
   Unknown; from a
   Last dose of Antibiotics:
   Vancomycin - [**2167-8-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-8-28**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.5
   HR: 78 (78 - 132) bpm
   BP: 124/52(70) {90/50(65) - 134/87(92)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 72.1 kg
   Height: 67 Inch
             Total In:
                                                                  2,607 mL
                                                                    209 mL
   PO:
                                                                    720 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,602 mL
                                                                    149 mL
   Blood products:
                                                                    285 mL
   Total out:
                                                                  2,380 mL
                                                                    630 mL
   Urine:
                                                                  2,380 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Faint heart
   sounds. No S3, S4 or other sounds. JVD 7 cm, no pulsus paradoxus or
   kussmaul sign.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Patient complains of
   "tingling" over both legs. This started last monday (5 days ago)
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   290 K/uL
   8.6 g/dL
   130 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   15 mg/dL
   106 mEq/L
   136 mEq/L
   25.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2167-8-26**]  10:57 AM
                             [**2167-8-26**]  05:55 PM
                             [**2167-8-27**]  04:06 AM
                             [**2167-8-28**]  04:23 AM
   WBC
   12.8
   12.0
   10.7
   11.5
   Hct
   25.9
   25.3
   23.2
   25.7
   Plt
   265
   272
   245
   290
   Cr
   1.3
   1.3
   1.2
   TropT
   0.10
   0.11
   Glucose
   141
   116
   130
   Other labs: PT / PTT / INR:24.4/33.7/2.4, CK / CKMB /
   Troponin-T:63/5/0.11, ALT / AST:16/18, Alk Phos / T Bili:120/0.7,
   Differential-Neuts:68.0 %, Band:13.0 %, Lymph:11.0 %, Mono:5.0 %,
   Eos:0.0 %, Albumin:3.0 g/dL, LDH:323 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   85M with Hodgkin's Lymphoma currently undergoing chemotherapy with
   Gemzar/[**Hospital 5413**] transferred to [**Hospital Unit Name 44**] for work-up of fever and
   tachycardia.
   .
   Fevers- Patient still with fever and increasing WBC with left shift,
   but hemodinamically stable. Blood cultures and urine cultures negative
   so far. Portho cath site looks ok. CXR and CT of abdomen and pelvis
   without signs of infection. Small pericardial effusion by
   echocardiogram.  Oncologist, Dr. [**Last Name (STitle) 5411**], felt that elevation of WBC
   count could be attributable to Neulasta and that fevers are not
   uncommon in patient's with lymphoma.
   - F/u CBC and diff
   - f/u blood and urine cultures -pending
   Tachycardia
 appears to be atrial tachycardia
   - appreciate cards consult yesterday, reccomended beta blocker to treat
   a-tach
   - tried esmolol drip limited by low blood pressure, did not appear to
   break rythmn
   - d/c esmolol drip and patient returned to [**Location 848**] sinus rhythm
   overnight
   - subsequently patient developed run of 22 NSVT with stable blood
   pressure, asymptomatic
 checked electrolytes which were okay (gave
   repletion to optimize) and started on amiodarone load
   - will follow up with cardiology as think that much of presentation
   consistent with cardiac etiology
   - would consider transfer to [**Hospital1 **] if pressures improve
   - definitely has a CAD equivalent with PVD
   - as below the pericardial effusion appears circumferential without
   signs of tamponade, so would restart coumadin
   - ECHO: The left atrium is normal in size. Left ventricular wall
   thicknesses are normal. The left ventricular cavity size is normal.
   Overall left ventricular systolic function is low normal (LVEF 50%).
   Right ventricular chamber size is normal. with focal hypokinesis of the
   apical free wall. The ascending aorta is mildly dilated. The aortic
   valve leaflets (3) are mildly thickened but aortic stenosis is not
   present. No aortic regurgitation is seen. The mitral valve leaflets are
   mildly thickened. There is no mitral valve prolapse. Trivial mitral
   regurgitation is seen. The pulmonary artery systolic pressure could not
   be determined. There is a small pericardial effusion. The effusion
   appears circumferential. There are no echocardiographic signs of
   tamponade. No right atrial or right ventricular diastolic collapse is
   seen.
   Compared with the findings of the prior report (images unavailable for
   review) of [**2166-7-28**], the right ventricle is no longer dilated and
   globally hypocontractile.
   Lymphoma - missed cycle of gemzar/navelbine [**8-26**].  primary oncologist,
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5411**], [**First Name3 (LF) 178**] dose chemo next week
   - last dose chemo [**2167-8-12**], last dose neulasta [**8-13**]
   - continue megace for now
   .
   Hypertension -  Baseline 140s
   - hold BBlocker, hold doxazosin
   - currently still hypotensive
   .
   History of PE - no acute PE on CT but remnant of past noted
   - hold coumadin for evaluation of pericardial effusion
   .
   Hyperlipidemia - Continue statin
   PVD
   -          history of peripheral vascular disease  had fem/posterial
   tibial bypass (also stent)
   -          essentially a CAD equivalent
   -          on statin
   .
   Renal Insufficiency - baseline creatnine 1.2, 1.4 on arrival.  Did
   receive contrast in ED for PE CT.
   - continue IVFs
   - avoid nephrotoxic meds
   .
   BPH - hold doxazosin for now while hypotensive
   .
   Fall - per onc attending, patient has unsteadiness of gait at baseline
   and is supposed to walk with walker but does not.
   - PT consult and eval
   .
   FEN - regular diet, replete lytes prn by onc sliding scales
   .
   Access - Right-sided portacath, peripheral IVs
   .
   Code Status - Full code
   .
   Contact - HCP, wife.
   ICU [**Name2 (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-8-26**] 05:00 AM
   Indwelling Port (PortaCath) - [**2167-8-26**] 08:06 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2167-08-28 11:44:00 Physician Attending Progress Note
Chief Complaint: Tachyardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2167-8-28**] 04:31 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Bleomycins
   Anaphylaxis;
   Strawberry
   facial swelling
   Pineapple
   Unknown; from a
   Last dose of Antibiotics:
   Vancomycin - [**2167-8-28**] 08:24 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-8-28**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.3
   HR: 73 (68 - 121) bpm
   BP: 117/54(69) {103/50(66) - 134/87(92)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.2 kg (admission): 72.1 kg
   Height: 67 Inch
             Total In:
                                                                  2,607 mL
                                                                    600 mL
   PO:
                                                                    720 mL
                                                                    210 mL
   TF:
   IVF:
                                                                  1,602 mL
                                                                    390 mL
   Blood products:
                                                                    285 mL
   Total out:
                                                                  2,380 mL
                                                                  1,170 mL
   Urine:
                                                                  2,380 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   290 K/uL
   130 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   15 mg/dL
   106 mEq/L
   136 mEq/L
   25.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2167-8-26**]  10:57 AM
                             [**2167-8-26**]  05:55 PM
                             [**2167-8-27**]  04:06 AM
                             [**2167-8-28**]  04:23 AM
   WBC
   12.8
   12.0
   10.7
   11.5
   Hct
   25.9
   25.3
   23.2
   25.7
   Plt
   265
   272
   245
   290
   Cr
   1.3
   1.3
   1.2
   TropT
   0.10
   0.11
   Glucose
   141
   116
   130
   Other labs: PT / PTT / INR:24.4/33.7/2.4, CK / CKMB /
   Troponin-T:63/5/0.11, ALT / AST:16/18, Alk Phos / T Bili:120/0.7,
   Differential-Neuts:68.0 %, Band:13.0 %, Lymph:11.0 %, Mono:5.0 %,
   Eos:0.0 %, Albumin:3.0 g/dL, LDH:323 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   85 yo male with persistent and recurrent tachycardia now with
   substantial improvement and return to sinus rhythm.  This was in the
   setting of Amiodarone being given but long term plan will need to be
   clarified with cardiology consultation given difficult to control heart
   rate on Esmolol.
   1)Atrial Tachycardia-Difficult decision, Amiodarone considered but
   patient has conversion to stabilized heart rate without significant
   load of medication
   -Will continue with beta-blocker dosing
   -Consider Amiodarone if worsening seen and symptomatic insult noted
   2)Fever
no bacterial source identified on cultures.  Patient has been
   maintained on Vanco.
   -Will D/C if cultures negative
   3)Malignancy-
   -Follow up treatment per Dr. [**Last Name (STitle) 5411**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2167-8-26**] 05:00 AM
   Indwelling Port (PortaCath) - [**2167-8-26**] 08:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition :Transfer to floor
   Total time spent: 40 minutes